US07781431B2
Step 1: methyl 5-methyl-4-nitrothiophene-2-carboxylate
A solution (0.5 M) of 5-methyl-4-nitrothiophene-2-carboxylic acid in methanol was treated with sulfuric acid (3.5 eq.). The reaction mixture was heated to reflux for 48 h. After cooling down, solvent was evaporated giving a residue that was dissolved in AcOEt and water was added. The organic phase was separated and the aqueous layer was extracted with AcOEt. The combined organic phase was washed sequentially with aqueous NaHCO3 (saturated solution) and brine, then dried and concentrated giving the title compound (69%) as solid.

reactant | 5-methyl-4-nitrothiophene-2-carboxylic acid | 0.5 M | CC1=C(C=C(S1)C(=O)O)[N+](=O)[O-] | C6H5NO4S
reactant | sulfuric acid | 3.5 eq. | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | methyl 5-methyl-4-nitrothiophene-2-carboxylate | 69% | CC1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C7H7NO4S
